US05977146
a) 3-Hydroxylamino-2-chloropyridine
A mixture of 18.3 g (115 mmol) of 2-chloro-3-nitropyridine and 300 ml of N-methylmorpholine was hydrogenated at room temperature and a hydrogen pressure of approximately 1.1 bar in the presence of 3 g of 5% platinum/charcoal (55.5% of water [Degussa]). After approximately 1.5 hours, the hydrogen uptake had ceased. The catalyst was removed by filtration through kieselguhr. The filtrate obtained was freed from solvent at approximately 45° C. under reduced pressure. Any remaining N-methylmorpholine was distilled off with 200 ml of Solvesso (Esso) under reduced pressure using a 20 cm column. The crystallizate which remained was taken up in 200 ml of n-hexane, filtered off with suction and washed with n-hexane. 15.9 g (96%) of the title compound were obtained as brown crystals.

reactant | 2-chloro-3-nitropyridine | 115 mmol, 18.3 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum/charcoal | 3 g | [Pt] | Pt
solvent | N-methylmorpholine | 300 ml | CN1CCOCC1 | C5H11NO
product | 3-Hydroxylamino-2-chloropyridine | 15.9 g, 96% | ONC=1C(=NC=CC1)Cl | C5H5ClN2O
